US09056859B2
A solution of diethyl (3-methoxy-4-nitrophenyl)propanedioate (3.8 g, 12.219 mmol) in 30 mL of methanol and 20 mL of water was added KOH (2.05 g, 36.657 mmol) and the mixture was heated to 70° C. for 4 hours. Cooled to ambient temperature and removed the solvents under reduce pressure. The residue was added 100 mL of water and adjusted to pH=2 with conc. HCl. Extracted with EtOAc and the organic layer was washed with water, brine and dried over anhydrous sodium sulfate, concentrated to give (3-methoxy-4-nitrophenyl)acetic acid. 1H-NMR (400 MHz, MeOD) δ ppm 7.75 (d, J=8.6 Hz, 1H), 7.21 (d, J=1.6 Hz, 1H), 6.98 (dd, J=7.8 Hz, J=1.6 Hz, 1H), 3.93 (s, 3H), 3.70 (s, 2H).

reactant | diethyl (3-methoxy-4-nitrophenyl)propanedioate | 12.219 mmol, 3.8 g | COC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)C(=O)OCC | C14H17NO7
reactant | KOH | 36.657 mmol, 2.05 g | [OH-].[K+]
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | (3-methoxy-4-nitrophenyl)acetic acid | COC=1C=C(C=CC1[N+](=O)[O-])CC(=O)O | C9H9NO5
